US04812458
A mixture of 500 mg (1,9 mmol) 6-brom-2,3-dihydroxy-7-nitroquinoxaline (ex. 1) in 10 ml dry dimethylformamide and 20 ml dry triethylamine is added 4 mg palladium(II)acetate, 8 mg triphenylphosphine and 600 l (4,3 mmol) trimethylsilylacetylene. The mixture is refluxed for 2.5 h under nitrogen. After cooling to room temperature, the reaction mixture is evaporated in vacuo. The residue is stirred with water, filtered and washed with water to give 500 mg of a crude product. The crude product is dissolved in ethyl acetate and purified by column chromatography (silica gel) to give 400 mg (70%) of 2,3-dihydroxy-6-trimethylsilylethynyl-7-nitroquinoxaline.

reactant | 6-brom-2,3-dihydroxy-7-nitroquinoxaline | 1,9 mmol, 500 mg | BrC=1C=C2N=C(C(=NC2=CC1[N+](=O)[O-])O)O | C8H4BrN3O4
reactant | trimethylsilylacetylene | 4,3 mmol, 600 l | C[Si](C)(C)C#C | C5H10Si
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2,3-dihydroxy-6-trimethylsilylethynyl-7-nitroquinoxaline | 400 mg, 70% | OC1=NC2=CC(=C(C=C2N=C1O)C#C[Si](C)(C)C)[N+](=O)[O-] | C13H13N3O4Si
